US04801593
Isoflavone (3.00 g) was dissolved in acetic acid (100 ml), and the solution hydrogenated at 50°-60° and 10.4-13.8 atm using 10% w/v palladium or carbon catalyst. The solution was filtered and evaporated, and the residue chromatographed on alumina, eluting with toluene. The product thus obtained gave, on recrystallisation from petroleum ether, (60°-80°) isoflavanone, 0.90 g., m.pt 73°-76°.

reactant | Isoflavone | 3.00 g | O1C=C(C(=O)C2=CC=CC=C12)C1=CC=CC=C1 | C15H10O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | [Pd] | Pd
product | isoflavanone | O1CC(C(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C15H12O2
